US07456164B2
1-[(4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)carbonyl]-4-methylpiperazine
The title compound (60 mg, 48%) was prepared from 4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylic acid and N-methyl piperazine similarly to the procedure used for example 150. 1H NMR (400 MHz, CDCl3) δ 1.05 (d, 6H), 1.79-1.81 (m, 2H), 2.00-2.03 (m, 7H), 2.15 (s, 3H), 2.18-2.22 (m, 2H), 2.37-2.42 (m, 2H), 2.77-2.79 (m, 3H), 2.99 (m, 1H), 3.27-3.56 (m, 4H), 3.78 (t, 2H), 3.87-3.89 (m, 2H), 4.28 (m, 1H), 6.88 (d, 2H), 7.14 (d, 2H).

reactant | 4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylic acid | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(=O)O | C20H29NO4
reactant | N-methyl piperazine | CN1CCNCC1 | C5H12N2
product | 1-[(4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)carbonyl]-4-methylpiperazine | 60 mg, 48% | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(=O)N1CCN(CC1)C | C25H39N3O3
